US07507740B2
(i) Production of N4-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-6-iodopyrimidine-4,5-diamine
A solution of 5-amino-4,6-diiodopyrimidine (3.83 g) and 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (2.78 g) in 1-methyl-2-pyrrolidone (30 mL) was stirred at 70° C. for 14 hrs. Water was added to the reaction system and the mixture was extracted with ethyl acetate. The organic layer washed with water and saturated brine and dried over magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified by column chromatography (eluent, ethyl acetate:hexane=1:4→2:3→1:1) to give the title compound (4.21 g) as brown powder crystals.

reactant | 5-amino-4,6-diiodopyrimidine | 3.83 g | NC=1C(=NC=NC1I)I | C4H3I2N3
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 2.78 g | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
reactant | Water | O | H2O
solvent | 1-methyl-2-pyrrolidone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | N4-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-6-iodopyrimidine-4,5-diamine | 4.21 g | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC(=C1N)I | C17H13ClFIN4O
